US05208250
5-[(3-Bromo-4-hydroxyphenyl)methylene]-2-thioxo-4-imidazolidinone
Prepared according to the procedure described in Example 1 using 3-bromo-4-hydroxybenzaldehyde (3.1 g, 15 mmoles), 2-thiohydantoin (1.7 g, 15 mmoles), sodium acetate (4.5 g, 55 mmoles), and acetic acid (35 ml), to afford the pure product (3.4 g), mp 262° C. (dec).

reactant | 3-bromo-4-hydroxybenzaldehyde | 15 mmoles, 3.1 g | BrC=1C=C(C=O)C=CC1O | C7H5BrO2
reactant | 2-thiohydantoin | 15 mmoles, 1.7 g | N1C(=S)NC(=O)C1 | C3H4N2OS
reactant | sodium acetate | 55 mmoles, 4.5 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 5-[(3-Bromo-4-hydroxyphenyl)methylene]-2-thioxo-4-imidazolidinone | 3.4 g | BrC=1C=C(C=CC1O)C=C1C(NC(N1)=S)=O | C10H7BrN2O2S
